US07348438B2
2-(5,6-Dichloro-1-methyl-1H-benzoimidazol-2-yl)-1-isobutylsulfanyl-propan-2-ol
To 1-chloro-2-(5,6-dichloro-1-methyl-1H-benzoimidazol-2-yl)-propan-2-ol (408 mg) in methanol (10 mL) at room temperature was added a solution of 2-methyl-1-propanethiol (150 mg) and sodium methoxide (0.381 mls of 25 wt % in MeOH). The resulting mixture was stirred at room temperature overnight. The reaction mixture was then concentrated. The crude product was purified by flash chromatography (10%-40% EtOAc/hexanes) to yield the title compound as a light orange solid.

reactant | 1-chloro-2-(5,6-dichloro-1-methyl-1H-benzoimidazol-2-yl)-propan-2-ol | 408 mg | ClCC(C)(O)C1=NC2=C(N1C)C=C(C(=C2)Cl)Cl | C11H11Cl3N2O
reactant | 2-methyl-1-propanethiol | 150 mg | CC(CS)C | C4H10S
reactant | sodium methoxide | 0.381 mls | C[O-].[Na+]
solvent | methanol | 10 mL | CO | CH4O
product | 2-(5,6-Dichloro-1-methyl-1H-benzoimidazol-2-yl)-1-isobutylsulfanyl-propan-2-ol | ClC1=CC2=C(N(C(=N2)C(CSCC(C)C)(C)O)C)C=C1Cl | C15H20Cl2N2OS
